US05114615
(1) Synthesis of 4-Octyloxybenzoic acid
Using ethyl p-hydroxybenzoate (36.7 g, 0.22 mol) and n-octyl bromide (50 g, 0.26 mol), the reaction was carried out in the same manner as described in Example 13, (1), and then recrystallized from ethanol to give the title compound as a white micro-needles; yield: 43.0 g (71.6%); mp 100.2°-101.4° C. (the 1st mp), 107.0°-107.6° C. (the 2nd mp).

reactant | ethyl p-hydroxybenzoate | 0.22 mol, 36.7 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | n-octyl bromide | 0.26 mol, 50 g | C(CCCCCCC)Br | C8H17Br
product | 4-Octyloxybenzoic acid | C(CCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
